US05705657
150 g of eseroline (0.69 mole), 83.9 g of potassium cyanate (1.035 moles), 148 g of 1-bromoheptane (0.83 mole) and 29 g of tetraethylammonium bromide (0.14 mole) are placed into 5 l of anhydrous acetonitrile. The reaction mixture is refluxed for 19 hours, the insolubles are filtered off and the mixture is worked up as described in Example 1. Heptastigmine yield is 63%.

reactant | eseroline | 0.69 mole, 150 g | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)O)C)C | C13H18N2O
reactant | potassium cyanate | 1.035 moles, 83.9 g | [O-]C#N.[K+]
reactant | 1-bromoheptane | 0.83 mole, 148 g | BrCCCCCCC | C7H15Br
catalyst | tetraethylammonium bromide | 0.14 mole, 29 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 5 l | C(C)#N | C2H3N
product | Heptastigmine | yield is 63% | CCCCCCCNC(=O)OC1=CC2=C(C=C1)N([C@@H]3[C@]2(CCN3C)C)C | C21H33N3O2
